US07517873B2
To a suspension of 4.3 g (0.066 g-atom) of zinc powder in 40 mL of tetrahydrofuran was added 4.1 mL (0.032 mole) of chlorotrimethylsilane. After stirring for 10 minutes, 6.6 g (0.032 mole) of ethyl bromodifluoroacetate was added dropwise at room temperature. After 10 minutes, a solution of 7.0 g (0.032 mole) of benzotriazol-1-ylmethyl-cyclopentyl-amine in tetrahydrofuran was added dropwise. The reaction mixture was stirred at room temperature for 3 hours and then quenched by the addition of saturated aqueous sodium carbonate. The mixture was filtered through Celite. The filtrate was extracted twice with ether. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was distilled under vacuum to give 2.77 g of 3-cyclopentylamino-2,2-difluoro-propanoic acid ethyl ester as a colorless oil. bp 75-82 degrees at 10 mm Hg.

reactant | chlorotrimethylsilane | 0.032 mole, 4.1 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethyl bromodifluoroacetate | 0.032 mole, 6.6 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | benzotriazol-1-ylmethyl-cyclopentyl-amine | 0.032 mole, 7.0 g | N1(N=NC2=C1C=CC=C2)CNC2CCCC2 | C12H16N4
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | zinc | 4.3 g | [Zn] | Zn
product | 3-cyclopentylamino-2,2-difluoro-propanoic acid ethyl ester | 2.77 g | C(C)OC(C(CNC1CCCC1)(F)F)=O | C10H17F2NO2
